US04359420
A mixture of 1.42 g (5 mmol) of ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate, 100 mg of potassium cyanide and 10 ml of ethyleneglycol is stirred at 130° C. for 6 hours, subsequently diluted with chloroform, washed with water, dried over magnesium sulphate and evaporated. After recrystallisation of the residue from ethyl acetate, there is obtained 2-hydroxyethyl-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate of melting point 222°-223° C.

reactant | ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 5 mmol, 1.42 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)OCC | C15H15N3O3
reactant | potassium cyanide | 100 mg | [C-]#N.[K+]
reactant | ethyleneglycol | 10 ml | C(CO)O | C2H6O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-hydroxyethyl-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | OCCOC(=O)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H15N3O4
